US04511724
Ethyl 1-(2-iodoethyl)-3-carboethoxy-4-methyl-pyrrole-2-acetate in 65 ml of dry dimethylformamide was treated with 1.6 g NaH (60% in mineral oil) and stirred for 60 minutes at room temperature. The mixture was quenched with 100 ml of water and extracted with ethylacetate (3×100 ml). The ethyl acetate layer was washed with water, dried over MgSO4, filtered and evaporated to dryness to yield 6.4 g of crude diethyl 1,2-dihydro-6-methyl-3H-pyrrolo-[1,2-a]pyrrole-1,7-dicarboxylate to be used in the next step without further purification.

reactant | Ethyl 1-(2-iodoethyl)-3-carboethoxy-4-methyl-pyrrole-2-acetate | ICCN1C(=C(C(=C1)C)C(=O)OCC)CC(=O)OCC | C14H20INO4
reactant | NaH | 1.6 g | [H-].[Na+]
solvent | dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
product | diethyl 1,2-dihydro-6-methyl-3H-pyrrolo-[1,2-a]pyrrole-1,7-dicarboxylate | 6.4 g | CC=1C(=C2N(CCC2C(=O)OCC)C1)C(=O)OCC | C14H19NO4
